US08247401B2
Step A: tert-Butyl {(1R)-1-[6-(trifluoromethyl)-3-pyridinyl]ethyl}carbamate
To a solution of (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethanamine hydrochloride salt (0.554 g, 0.21 mmol) in dichloromethane (7.0 mL) were added di-tert-butyl dicarbonate (0.506 g, 2.32 mmol) and triethylamine (0.969 mL, 6.95 mmol). The reaction mixture was stirred at ambient temperature for 4 h. Saturated aqueous ammonium chloride was added. The mixture was extracted with dichloromethane (3×). The combined organics extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the title compound which was used directly in Step B (0.626 g).

reactant | (1R)-1-[6-(trifluoromethyl)pyridin-3-yl]ethanamine hydrochloride salt | 0.21 mmol, 0.554 g | Cl.FC(C1=CC=C(C=N1)[C@@H](C)N)(F)F
reactant | di-tert-butyl dicarbonate | 2.32 mmol, 0.506 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.95 mmol, 0.969 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 7.0 mL | ClCCl | CH2Cl2
product | tert-Butyl {(1R)-1-[6-(trifluoromethyl)-3-pyridinyl]ethyl}carbamate | FC(C1=CC=C(C=N1)[C@@H](C)NC(OC(C)(C)C)=O)(F)F | C13H17F3N2O2
